Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Zoloft / Wellbutrin XL / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / amoxicillin / Celexa
 
Attending: ___.
 
Chief Complaint:
C2 fracture, transfer from OSH

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms. ___ is a ___ year old female involve in MVA today boarded
and collared and brought to OSH. GCS 15 at ___. CT head, C-spine
and CT chest were done at ___ and showed a C2 fracture involving
body and bilateral transverse foramen and transferred to ___
for further care. Upon arrival, GCS15, HDS. Spine consulted for
further management of C-spine fracture. At time of examination,
patient complains of neck pain, left shoulder pain, abdominal
pain, left pelvis pain and bilateral knee pain. Denies any
numbness, tingling, weakness, urinary bowel incontinence, saddle
anesthesia. 
 
Past Medical History:
Right Hip replacement ___ s/p revision ___ ___ of the left hip
GERD
Chronic Pain
IBS
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
AxOx3
gross motor strength and sensation intact in upper and lower 
extremities
cervical collar in place

Vascular
Radial: L2+, R2+
DPR: L2+, R2+

___: neg
Babinski: downgoing
Clonus: none
Perianal sensation: intact
Rectal tone: intact

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   2
R  2  2    2    2   2
 
Pertinent Results:
___ 04:10AM BLOOD WBC-7.7 RBC-4.10 Hgb-12.9 Hct-38.2 MCV-93 
MCH-31.5 MCHC-33.8 RDW-11.6 RDWSD-39.5 Plt ___
___ 04:10AM BLOOD Glucose-98 UreaN-10 Creat-0.6 Na-139 
K-3.7 Cl-99 HCO3-28 AnGap-16
___ 07:30PM BLOOD ALT-19 AST-69* AlkPhos-79 TotBili-0.6
___ 07:30PM BLOOD Albumin-4.4

 
Brief Hospital Course:
Ms. ___ is a ___ year old female who was involved in MVA on 
___. She was boarded
and collared and brought to OSH. GCS 15 at OSH. CT head, 
cervical spine and CT chest were done at OSH and showed a C2 
fracture involving body and bilateral transverse foramen and 
transferred to ___ for further care. Upon arrival, GCS15, HDS. 
Spine was consulted for further management of C-spine fracture. 
At time of examination, she complained of neck pain, left 
shoulder pain, abdominal pain, left pelvis pain and bilateral 
knee pain. Denies any numbness, tingling, weakness, urinary 
bowel incontinence, saddle anesthesia. She was treated 
conservatively with a hard cervical collar which she will wear 
at all times for about ___ months. X-rays of left scapular and 
ribs were also completed which did not reveal any 
fractures/dislocation. Chronic pain service was consulted and 
recommended the narcotic pain regimen. Physical and occupational 
therapy were consulted for mobilization out of bed with cervical 
collar in place. On the day of discharge she was comfortable on 
oral pain medications, tolerating a regular diet, and ambulating 
with assistance of a walker. 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q4H 
2. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 10 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*126 Tablet Refills:*0
3. OxyCODONE SR (OxyconTIN) 30 mg PO Q12H 
RX *oxycodone [OxyContin] 30 mg 1 tablet(s) by mouth every 
twelve (12) hours Disp #*14 Tablet Refills:*0
4. Tizanidine 2 mg PO TID:PRN spams 
RX *tizanidine 2 mg 1 capsule(s) by mouth three times a day Disp 
#*60 Capsule Refills:*0
5. Lidocaine 5% Patch 1 PTCH TD QAM pain area on left chest 
RX *lidocaine [Lidoderm] 5 % 1 patch qAM to painful area on left 
chest daily Disp #*7 Patch Refills:*0
6. Gabapentin 300 mg PO BID 
RX *gabapentin [Neurontin] 300 mg 1 capsule(s) by mouth twice a 
day Disp #*60 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
C2 fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory.

 
Discharge Instructions:
no bending, lifting >10 lbs, twisting
ambulate daily
wear cervical collar at all times
Physical Therapy:
aspen collar at all times
ambulate
Treatments Frequency:
none
 
Followup Instructions:
___